US05135927
Preparation of 2-chloro-5-(2-phenoxyethoxycarbonyl)-4-trifluoromethyl-thiazole
6.3 g (0.045 mol) of 2-phenoxyethanol are added slowly while stirring to a solution of 11 g (0.44 mol) of 2-chloro-5-chlorcarbonyl-4-trifluoromethyl-thiazole in 100 ml of absolute toluene. The solution is then cooled to 0°-5° and 3.6 g (0.045 mol) of triethylamine are added dropwise while stirring. Triethylamine-hydrochloride precipitates from the reaction mixture. After everything is added, the suspension is stirred for 20 hours at room temperature and then poured onto ice-water. The organic phase is separated, dried over sodium sulfate and concentrated in a rotatory evaporator. The residue cristallizes. In order to purify it, the crystals are suspended in petrol-ether, filtered and dried. In this manner 8.7 g (57% of the theoreticl yield) of the title compound are obtained, m.p. 70°-72°.

reactant | 2-phenoxyethanol | 0.045 mol, 6.3 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 2-chloro-5-chlorcarbonyl-4-trifluoromethyl-thiazole | 0.44 mol, 11 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)Cl | C5Cl2F3NOS
reactant | triethylamine | 0.045 mol, 3.6 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-5-(2-phenoxyethoxycarbonyl)-4-trifluoromethyl-thiazole | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCCOC1=CC=CC=C1 | C13H9ClF3NO3S
